US07482350B2
Step 5. Preparation of (1S)-N-{[2-(2,6-diethylphenyl)-4-methoxy-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine
To a sealed tube containing (1S)-(2,4-dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine (3.4 g, 10.25 mmol) is added dioxane (40 mL), 2,6-diethylphenylboronic acid (3.65 g, 2.0 eq., 20.5 mmol) and K2CO3 (5.7 g, 4.0 eq., 41 mmol dissolved in 10 mL water) under a nitrogen atmosphere. Pd(PPh3)4 (5 mol %, 590 mg) is added and after sealing is allowed to react at 95° C. for 16 h. After cooling to room temperature, EtOAc (100 mL) and water (100 mL) is added and the organic layer is washed with sat. NaHCO3 (100 mL), brine (100 mL) and dried over Na2SO4. The crude sample is purified by SiO2 flash chromatography using hexanes:Et2O 5:1 with 1.0% triethylamine to recover the title compound as a colorless oil. [mass expected (429.60); mass found (429.33)]

reactant | (1S)-(2,4-dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine | 10.25 mmol, 3.4 g | ClC1=NC(=C(C(=N1)Cl)CN([C@H]1CCCC2=CC=CC=C12)C)C | C17H19Cl2N3
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
reactant | 2,6-diethylphenylboronic acid | 20.5 mmol, 3.65 g, 2.0 eq. | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
reactant | K2CO3 | 41 mmol, 10 mL, 5.7 g, 4.0 eq. | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 590 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (1S)-N-{[2-(2,6-diethylphenyl)-4-methoxy-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)OC)CN([C@H]1CCCC2=CC=CC=C12)C)C | C28H35N3O
